US08222407B2
2-(Dimethylamino)ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate
1-Cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (300 mg, 1.13 mmol), 2-chloro-N,N-dimethylethylamine hydrochloride (196 mg, 1.36 mmol), and cesium carbonate (1.11 g, 3.39 mmol) were reacted in accordance with the method of First Step of Example 3 to obtain 282 mg of the heading compound as a colorless powdery crystal (yield 74%).

reactant | 1-Cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.13 mmol, 300 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | 2-chloro-N,N-dimethylethylamine hydrochloride | 1.36 mmol, 196 mg | Cl.ClCCN(C)C
reactant | cesium carbonate | 3.39 mmol, 1.11 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | 2-(Dimethylamino)ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 282 mg, yield 74% | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCCN(C)C | C17H18F2N2O3
